US04910212
A mixture of 6-bromo-2-(4-fluorophenyl)-3,4-dihydronaphthalene-1-carbonitrile (8 g), magnesium (3 g), tetrahydrofuran (300 ml) and methanol (300 ml) was stirred at 0° under an atmosphere of argon for 1.5 h. The reaction mixture was then poured into 2N hydrochloric acid (300 ml), and the organic solvents were evaporated under reduced pressure. The residue was extracted with ethyl acetate (300 ml), the extract was dried and evaporated to dryness and the residue was triturated with diethyl ether to give 6-bromo-2-(4-fluorophenyl)-1,2,3,4-tetrahydronaphthalene-1-carbonitrile as a white solid, m.p. 146°.

reactant | 6-bromo-2-(4-fluorophenyl)-3,4-dihydronaphthalene-1-carbonitrile | 8 g | BrC=1C=C2CCC(=C(C2=CC1)C#N)C1=CC=C(C=C1)F | C17H11BrFN
reactant | magnesium | 3 g | [Mg] | Mg
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2N, 300 ml | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | 6-bromo-2-(4-fluorophenyl)-1,2,3,4-tetrahydronaphthalene-1-carbonitrile | BrC=1C=C2CCC(C(C2=CC1)C#N)C1=CC=C(C=C1)F | C17H13BrFN
